US07365069B2
N-(4-Isopropylphenyl)-4-(methylsulfonyl)benzenecarboximidamide
The title compound was prepared from 4-methylsulfonylbenzonitrile (5.43 g, 30 mmol) and 4-isopropylaniline (4.05 g, 30 mmol) by following the procedure described in preparation 1 (5.66 g, yield 60%, purity 88% by HPLC). 1H-NMR (CDCl3):δ 1.25-1.27 (d, 6H), 2.9-2.95 (m, 1H), 3.07 (s, 3H), 4.92 (bs, 2H, D2O exchangeable), 6.90-6.92 (d, 2H), 7.23-7.26 (d, 2H), 8.01-8.03 (d, 2H), 8.08-8.1 (d, 2H). MS m/z:317.2 (M+).

reactant | 4-methylsulfonylbenzonitrile | 30 mmol, 5.43 g | CS(=O)(=O)C1=CC=C(C#N)C=C1 | C8H7NO2S
reactant | 4-isopropylaniline | 30 mmol, 4.05 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | N-(4-Isopropylphenyl)-4-(methylsulfonyl)benzenecarboximidamide | yield 60% | C(C)(C)C1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)S(=O)(=O)C | C17H20N2O2S
